US07022707B2
2-Chloro-6-fluoro-4-propoxy-benzylalcohol:
This compound was prepared from 3-Chloro-5-fluoro-4-hydroxymethyl-phenol and propylbromide according to the procedure described in Example 179 to give the product as a yellowish oil (259 mg, 69%); MS (EI): 218.1 (M)+.

reactant | 3-Chloro-5-fluoro-4-hydroxymethyl-phenol | ClC=1C=C(C=C(C1CO)F)O | C7H6ClFO2
reactant | propylbromide | C(CC)Br | C3H7Br
product | 2-Chloro-6-fluoro-4-propoxy-benzylalcohol | 259 mg, 69% | ClC1=C(CO)C(=CC(=C1)OCCC)F | C10H12ClFO2
